US07834039B2
A 25 mL microwave reaction vial was charged with (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide (0.1 g, 0.437 mmol), 6-bromonicotinic acid (0.097 g, 0.481 mmol), and DCC (0.099 g, 0.481 mmol) in acetonitrile (2.403 ml). HOBT (0.074 g, 0.481 mmol) was added in one portion, the resulting suspension was allowed to stir at room temperature for 10 min. DIEA (0.168 ml, 0.962 mmol) was added dropwise, the reaction mixture was heated at 120° C. for 30 min under microwave irradiation (Biotage Optimizer, 300 W). The solution was cooled, the reaction mixture was partitioned between EtOAc (50 mL) and water (50 mL), the organic layer was washed by water (2×50 mL), and concentrated afforded yellow solid, which was purified via silica gel chromatography (12 g, 20% EtOAc:Heptane) to afford 5-(6-(1H-benzo[d][1,2,3]triazol-1-yloxy)pyridin-3-yl)-3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazole (0.128 g, 0.285 mmol, 65.2% yield) as a white solid. LC/MS (Table 1, Method a) Rt=3.74 min.; MS m/z: 449.18 (M+H)+. 1H NMR (400 MHz, Solvent d-DMSO) ppm 8.88 (dd, J=2.25, 0.65 Hz, 1H), 8.62 (dd, J=8.68, 2.27 Hz, 1H), 8.15 (t, J=5.28 Hz, 2H), 7.97 (dd, J=8.62, 2.14 Hz, 1H), 7.55 (d, J=0.96 Hz, 1H), 7.52-7.44 (m, 2H), 7.36 (dd, J=8.68, 0.70 Hz, 1H), 7.03 (d, J=8.87 Hz, 1H), 4.73-4.61 (m, 1H), 1.46-1.40 (m, 6H).

reactant | (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide | 0.437 mmol, 0.1 g | ClC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13ClN2O2
reactant | 6-bromonicotinic acid | 0.481 mmol, 0.097 g | BrC1=NC=C(C(=O)O)C=C1 | C6H4BrNO2
reactant | DCC | 0.481 mmol, 0.099 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 0.481 mmol, 0.074 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.962 mmol, 0.168 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 2.403 ml | C(C)#N | C2H3N
product | 5-(6-(1H-benzo[d][1,2,3]triazol-1-yloxy)pyridin-3-yl)-3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazole | 0.285 mmol, 0.128 g, 65.2% yield | N1(N=NC2=C1C=CC=C2)OC2=CC=C(C=N2)C2=NC(=NO2)C2=CC(=C(C=C2)OC(C)C)Cl | C22H17ClN6O3
